US06967197B2
To a solution of N-hydroxy-2-[(S)-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-4-(2-pyridinecarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (118 mg) in methanol (3 ml) was added 10% hydrochloric acid-methanol solution (5 ml) and the mixture was stirred at ambient temperature for 0.5 hour. After evaporation of solvent, the residue was triturated with isopropyl ether to give N-hydroxy-2-[7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-4-(2-pyridinecarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide hydrochloride as a pale yellow amorphous powder (119 mg).

reactant | N-hydroxy-2-[(S)-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-4-(2-pyridinecarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 118 mg | ONC(C[C@@]1(CCN(CCS1(=O)=O)C(=O)C1=NC=CC=C1)C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)=O | C26H24N4O6S2
reactant | hydrochloric acid methanol | 5 ml | Cl.CO
solvent | methanol | 3 ml | CO | CH4O
product | N-hydroxy-2-[7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-4-(2-pyridinecarbonyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide hydrochloride | 119 mg | Cl.ONC(CC1(CCN(CCS1(=O)=O)C(=O)C1=NC=CC=C1)C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)=O | InChI=1S/C26H24N4O6S2.ClH/c31-24(29-33)15-26(10-12-30(13-14-38(26,34)35)25(32)20-3-1-2-11-28-20)23-9-8-22(37-23)19-6-4-18(5-7-19)21-16-27-17-36-21;/h1-9,11,16-17,33H,10,12-15H2,(H,29,31);1H
